US06489347B1
4-(4-Fluorophenyl)-3-hydroxymethylpiperidine
Lithium aluminum hydride (1.0 molar solution in tetrahydrofuran, 0.75 ml, 0.75 mmol) was added gradually to a solution of trans-4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one (0.25 g, 0.836 mmol) in tetrahydrofuran (3 ml) keeping the temperature below 25° C. The reaction mixture was stirred for 1 hour at 25° C.; then quenched with 1 drop of water, followed by 2 drops 15% sodium hydroxide solution, and finally with 5 drops of water. Extraction with dichloromethane (35 ml) followed by exaporation of the dichloromethane phase gave 0.21 g of the title compound. Yield 76%.

reactant | Lithium aluminum hydride | 0.75 mmol, 1.0 molar, 0.75 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one | 0.836 mmol, 0.25 g | FC1=CC=C(C=C1)[C@H]1[C@@H](CNC(C1)=O)CCC(=O)O | C14H16FNO3
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluorophenyl)-3-hydroxymethylpiperidine | 0.21 g, Yield 76% | FC1=CC=C(C=C1)C1C(CNCC1)CO | C12H16FNO
